US08067511B2
In methylene chloride (300 mL), dissolved was 2-methoxy-1-phenylnaphthalene (13.0 g, 55.5 mmol), and 670 mL of boron tribromide solution (1 M in methylene chloride) was added dropwise thereto at −78° C. Reaction was carried out for 3 hours while slowly raising the temperature to ambient temperature. When the reaction was completed, mixture of ice (150 g) and diethyl ether (250 mL) was added thereto. After isolating the organic layer, the aqueous layer was extracted with diethyl ether. The combined organic layer was dried over magnesium sulfate, and evaporated to remove the volatiles. The residue was purified via silica gel column chromatography by using mixed solvent of hexane and methylene chloride to obtain 1-phenylnaphthalen-2-ol (10.0 g, yield: 81.8%) as white solid.

reactant | 2-methoxy-1-phenylnaphthalene | 55.5 mmol, 13.0 g | COC1=C(C2=CC=CC=C2C=C1)C1=CC=CC=C1 | C17H14O
reactant | boron tribromide | 1 M, 670 mL | B(Br)(Br)Br | BBr3
reactant | diethyl ether | 250 mL | C(C)OCC | C4H10O
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 1-phenylnaphthalen-2-ol | 10.0 g, yield: 81.8% | C1(=CC=CC=C1)C1=C(C=CC2=CC=CC=C12)O | C16H12O
